US08431695B2
Preparation of 2-{7-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-ethanol
5-(2-Benzyl-2H-indazol-6-yl)-7-(1,2,3,4-tetrahydro-isoquinolin-7-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (200 mg, 0.41 mmol) was dissolved in DMF (4 mL) and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (0.15 g, 0.62 mmol) was added followed by triethylamine (0.17 mL, 1.26 mmol) and sodium iodide (0.006 g, 0.004 mmol). The resulting mixture was stirred at 50° C. overnight. The mixture was concentrated, dried using a vacuum pump for 2 hours. The residue was dissolved in 2 mL dichloromethane and TFA (0.30 mL) was added and the resulting solution was stirred overnight, concentrated and purified by preparative HPLC to afford 32 mg (15%) of the title compound. 1H-NMR (CD3OD-d4) 8.36-8.33 (m, 1 H), 7.81 (s, 1 H), 7.76 (dd, 1H), 7.63-7.61 (m, 1 H), 7.38-7.29 (m, 5 H), 7.19 (dd, 1 H), 7.11-6.98 (m, 3 H), 6.46 (s, 1 H), 5.65 (s, 2 H), 4.24 (s, 2 H), 3.76 (t, 2 H), 3.67 (s, 2 H), 2.93-2.79 (m, 4 H), 2.69 (t, 2 H); LC-MS [M+H]+=530.3, RT=2.36 min.

reactant | 5-(2-Benzyl-2H-indazol-6-yl)-7-(1,2,3,4-tetrahydro-isoquinolin-7-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 0.41 mmol, 200 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CC2=CC=C1CCNCC1=C2 | C30H27N7
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 0.62 mmol, 0.15 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | triethylamine | 1.26 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.004 mmol, 0.006 g | [I-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-{7-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-ethanol | 32 mg, 15% | NC1=NC=NN2C1=C(C=C2CC2=CC=C1CCN(CC1=C2)CCO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C32H31N7O
